US06413938B1
6-Chloro-1-(5-deoxy-β-D-ribofuranosyl)-N-(1-methylethyl)-1H-benzimidazol-2-amine
A mixture of 2-bromo-6-chloro-1-(2,3-di-O-acetyl-5-deoxy-β-D-ribofuranosyl)-1H-benzimidazole and 10 mL of isopropylamine in 5 mL of absolute ethanol was refluxed for 18 h. To this resultant mixture was added 1 mL of 1N NaOH and the resultant solution was dry-packed in silica gel. Flash column chromatography on silica gel with EtOAc/hexane (1:1) gave 0.15 g of a still impure product. Further purification on a silica gel preparative plate using EtOAc/hexane (1:1) gave 0.06 g (28%) of the title compound as a foam. 1H NMR (DMSO-d6) δ1.18 (d, 6H, 2×CH3), 1.35 (d, 3H, CH3), 3.7-3.8 (m, 1H, CH), 3.8-3.9 (m, 1H, CH), 4 (sextet, 1H, CH), 4.3 (q, 1H, CH), 5.2-5.21 (m, 2H, 2×OH), 5.61 (d, 1H, CH), 6.38 (d, 1H, aromatic), 6.95 (d, 1H, aromatic), 7.1-7.2 (m, 2H, aromatic & NH).

reactant | 2-bromo-6-chloro-1-(2,3-di-O-acetyl-5-deoxy-β-D-ribofuranosyl)-1H-benzimidazole | BrC1=NC2=C(N1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C)C=C(C=C2)Cl | C16H16BrClN2O5
reactant | isopropylamine | 10 mL | C(C)(C)N | C3H9N
reactant | NaOH | 1N, 1 mL | [OH-].[Na+]
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 6-Chloro-1-(5-deoxy-β-D-ribofuranosyl)-N-(1-methylethyl)-1H-benzimidazol-2-amine | 0.06 g, 28% | ClC=1C=CC2=C(N(C(=N2)NC(C)C)[C@H]2[C@H](O)[C@H](O)[C@H](O2)C)C1 | C15H20ClN3O3
